2167-06-13 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   No events overnight
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Dobutamine - 2.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-6-13**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 51 (51 - 73) bpm
   BP: 109/47(62) {109/47(62) - 132/70(85)} mmHg
   RR: 24 (12 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 66 Inch
             Total In:
             1,071 mL
   PO:
             240 mL
   TF:
   IVF:
   31 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    500 mL
   Urine:
   100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    571 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ////
   Physical Examination
   GENERAL: NAD. Oriented x3. Mood, affect appropriate. Good memory
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with 7cm JVP
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: bibasilar rales, No chest wall deformities, scoliosis or
   kyphosis. Resp were unlabored, no accessory muscle use. CTAB, no
   crackles, wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   224
   11.9
   133
   0.6
   24
   3.9
   15
   97
   131
   34.5
   8.6
        [image002.jpg]
   Assessment and Plan
   80yo F w/ hypertension on atenolol and diltiazem, dyslipidemia, h/o
   CVA, and mild Alzheimer's dementia who p/w syncope, bradycardia and
   sinus pauses
   .
   #. RHYTHM: Pt w/ sinus node dysfunction (possible this is sinoatrial
   exit block vs sinus arrest), with associated hypotension, but
   responsive to Dobutamine gtt. No temporary pacing wire in place at this
   time.
   - EP consulted for permanent pacemaker placement
   - Dobutamine off at this time
   - keep pads on and atropine at bedside
   - hold anti-hypertensives given bradycardia and hypotension - dilt XT
   300, Atenolol 50, Lisinopril 20, HCTZ 25
   - holding aricept given this can cause AV block, bradycardia
   .
   #. CORONARIES: No known CAD, symptoms and ECG do not suggest acute
   ischemia.
   - complete r/o MI w/ repeat ECG and last set CEs in PM
   .
   #. PUMP: No known dysfunction, currently appears euvolemic to slightly
   hypervolemic with rales vs atelectasis on exam
   - continue to monitor fluid status
   - consider TTE to eval for LV function and possibility of ICD placement
   with pacemaker
   .
   #. Hyponatremia
Likely this is hypovolemic hyponatremia
   - hold home HCTZ
   -cont to monitor. [**Month (only) 8**] need some IVF
   .
   #. Hypertension - Currently bradycardic and hypotensive requiring
   Dobutamine gtt.
   - cont dobutamine gtt at current rate
   - hold anti-hypertensives
   .
   #. Dyslipidemia - cont home statin
   .
   #. GERD - cont home PPI
   .
   #. Alzheimer's dementia - Mild at baseline, as pt is well-functioning.
   - cont home Aricept and SSRI
   .
   FEN: NPO for possible pacemaker placement, replete lytes PRN
   ACCESS: PIVs
   PROPHYLAXIS:
   -DVT ppx with SQ Heparin
   -Pain management with Tylenol
   -Bowel regimen with Colace, Senna, Dulcolax
   CODE: Presumed full
   DISPO: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). ccu admit note.
   I would add the following remarks:
   History
   nothing to add
   Physical Examination
   nothing to add
   Medical Decision Making
   nothing to add
   ------ Protected Section Addendum Entered By:[**Name (NI) 1714**] [**Name (NI) 4235**],MD
   on:[**2167-6-13**] 10:20 ------

2167-06-14 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   --Received 500 cc bolus
   --PM Lytes: cont to be hyponatremic Na 130
   --Restarted on dobutamine since HR down to 48 which was weaned off at
   0200
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-6-14**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.9
   HR: 76 (48 - 86) bpm
   BP: 118/65(76) {100/45(56) - 160/77(112)} mmHg
   RR: 17 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.1 kg (admission): 80 kg
   Height: 66 Inch
             Total In:
                                                                  2,476 mL
                                                                     34 mL
   PO:
                                                                    960 mL
             TF:
   IVF:
                                                                    716 mL
                                                                     34 mL
   Blood products:
   Total out:
                                                                  2,520 mL
                                                                    675 mL
   Urine:
                                                                  2,120 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -44 mL
                                                                   -641 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   GENERAL: NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple, non-elev JVP
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: bibasilar rales, No chest wall deformities, scoliosis or
   kyphosis. Resp were unlabored, no accessory muscle use. CTAB, no
   crackles, wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   212 K/uL
   10.9 g/dL
   85 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.4 mEq/L
   10 mg/dL
   103 mEq/L
   136 mEq/L
   32.2 %
   7.0 K/uL
        [image002.jpg]
                             [**2167-6-13**]  09:29 AM
                             [**2167-6-13**]  09:04 PM
                             [**2167-6-14**]  04:36 AM
   WBC
   8.5
   7.0
   Hct
   31.2
   32.2
   Plt
   213
   212
   Cr
   0.6
   0.6
   0.6
   TropT
   <0.01
   Glucose
   85
   153
   85
   Other labs: PT / PTT / INR:12.7/33.4/1.1, CK / CKMB /
   Troponin-T:40//<0.01, ALT / AST:58/35, Alk Phos / T Bili:85/0.4,
   Albumin:4.1 g/dL, LDH:169 IU/L, Ca++:9.1 mg/dL, Mg++:2.1 mg/dL, PO4:1.8
   mg/dL
   Assessment and Plan
   80yo F w/ hypertension on atenolol and diltiazem, dyslipidemia, h/o
   CVA, and mild Alzheimer's dementia who p/w syncope, bradycardia and
   sinus pauses
   .
   #. RHYTHM: Pt w/ sinus node dysfunction appears to be sinoatrial block
   . Dobutamin gtt weaned off overnight and HR has been stable in the
   70
s.  Atenolol, diltiazem, lisinopril and donepezil being held.
   - Monitoring over the weekend to see if native rhythm remains stable
   off nodal agents
   - f/u EP recs
   - keep pads on and atropine at bedside
   - hold anti-hypertensives given bradycardia and hypotension - dilt XT
   300, Atenolol 50,
   - restarting Lisinopril 20, HCTZ 25
   - holding aricept given this can cause AV block, bradycardia
   .
   #. CORONARIES:No active issues. CEs neg.
   .
   #. PUMP: Appears euvolemic.
   - continue to monitor fluid status
   - Awaiting TTE to eval for LV function and possibility of ICD placement
   with pacemaker
   .
   #. Hyponatremia: Resolved. Was likely hypovolemic hyponatremia.
   - could consider restarting HCTZ
   .
   #. Hypertension
 Remains normotensive off Dobutamine gtt
   - restart HCTZ and lisinopril today
   - hold atenolol, diltiazem
   .
   #. Dyslipidemia - cont home statin
   .
   #. GERD - cont home PPI
   .
   #. Alzheimer's dementia - Mild at baseline, as pt is well-functioning.
   - DC donepezil given possible contribution to bradycardia
   .
   .FEN:Low sodium, heart healthy replete lytes PRN
   ACCESS: PIVs
   PROPHYLAXIS:
   -DVT ppx with SQ Heparin
   -Pain management with Tylenol
   -Bowel regimen with Colace, Senna, Dulcolax
   CODE: FULL
   DISPO: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 284**].
   I would add the following remarks:
   History
   80 yr old white female monitored in CCU for syncope in setting of SA
   exit block.
   Holding Atenolol and Dilt with stable rhythm.
   Medical Decision Making
   Monitor in CCU.
   Adjust BP meds.
   Reeval need for PPM with EP.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Last Name (NamePattern1) 4841**], MD
   on:[**2167-6-14**] 10:45 ------

2167-06-15 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - restarted lisinopril 20mg and HCTZ 25mg
   - TSH 3.2
   - updated family
   - made pt NPO just in case they want to implant a pacemaker
   History obtained from Patient
   Allergies:
   History obtained from PatientAmpicillin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-6-15**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 61 (53 - 83) bpm
   BP: 155/69(92) {132/69(92) - 162/100(110)} mmHg
   RR: 16 (14 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SA (Sinus Arrhythmia)
   Wgt (current): 76.1 kg (admission): 80 kg
   Height: 66 Inch
                  Total In:
                                                                  1,354 mL
                  PO:
                                                                  1,320 mL
                  TF:
   IVF:
                                                                     34 mL
   Blood products:
   Total out:
                                                                  2,925 mL
                                                                    600 mL
   Urine:
                                                                  2,925 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,571 mL
                                                                   -600 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ////
   Physical Examination
   GENERAL: NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple, non-elev JVP
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: bibasilar rales, No chest wall deformities, scoliosis or
   kyphosis. Resp were unlabored, no accessory muscle use. CTAB, no
   crackles, wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   212 K/uL
   10.9 g/dL
   85 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.4 mEq/L
   10 mg/dL
   103 mEq/L
   136 mEq/L
   32.2 %
   7.0 K/uL
        [image002.jpg]
                             [**2167-6-13**]  09:29 AM
                             [**2167-6-13**]  09:04 PM
                             [**2167-6-14**]  04:36 AM
   WBC
   8.5
   7.0
   Hct
   31.2
   32.2
   Plt
   213
   212
   Cr
   0.6
   0.6
   0.6
   TropT
   <0.01
   Glucose
   85
   153
   85
   Other labs: PT / PTT / INR:12.7/33.4/1.1, CK / CKMB /
   Troponin-T:40//<0.01, ALT / AST:58/35, Alk Phos / T Bili:85/0.4,
   Albumin:4.1 g/dL, LDH:169 IU/L, Ca++:9.1 mg/dL, Mg++:2.1 mg/dL, PO4:1.8
   mg/dL
   Assessment and Plan
 CHRONIC PAIN
 INEFFECTIVE COPING
 BRADYCARDIA
   80yo F w/ hypertension on atenolol and diltiazem, dyslipidemia, h/o
   CVA, and mild Alzheimer's dementia who p/w syncope, bradycardia and
   sinus pauses
   .
   #. RHYTHM: Pt w/ sinus node dysfunction appears to be sinoatrial block
   . Off Dobutamin gtt for 24hrs. HR has been stable in the 70
   Atenolol, diltiazem, aricept were held. Pt with no further symptomatic
   episodes or events on tele,. Pt ambulated without symptoms as well.
   - No need for PPM
   - keep pads on and atropine at bedside
   - holding nodal agents (dilt and atenolol)
   - cont Lisinopril 20 (plan to titrate to 30mg) and HCTZ 25
   - holding aricept given this can cause AV block, bradycardia
   .
   #. CORONARIES:No active issues. CEs neg.
   .
   #. PUMP: Appears euvolemic.
   - continue to monitor fluid status
   - f/u echo
   .
   #. Hypertension
 Pt with elevated BP (SBP 130-160
s). Restarted HCTZ
   and Lisinopril. Holding nodal agents.
   - plan to titrate up Lisinopril to 30mg daily
   - cont HCTZ
   - hold atenolol, diltiazem
   .
   #. Dyslipidemia - cont home statin
   .
   #. GERD - cont home PPI
   .
   #. Alzheimer's dementia - Mild at baseline, as pt is well-functioning.
   - DC donepezil given possible contribution to bradycardia
   .
   .FEN:Low sodium, heart healthy replete lytes PRN
   ACCESS: PIVs
   PROPHYLAXIS:
   -DVT ppx with SQ Heparin
   -Pain management with Tylenol
   -Bowel regimen with Colace, Senna, Dulcolax
   CODE: FULL
   DISPO: can be called out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-6-13**] 05:06 AM
   18 Gauge - [**2167-6-13**] 05:06 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 5081**].
   I would add the following remarks:
   History
   Ambulating.
   No further heart block.
   Medical Decision Making
   OK for discharge today off atenolol and dilt.   No need for PPM yet.
   F/u arranged.
   Above discussed extensively with patient.
   Total time spent on patient care: 30 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Last Name (NamePattern1) 4841**], MD
   on:[**2167-6-15**] 11:09 ------